* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 3.3
R3 N002 0 220
R1 N003 0 33k
R4 N001 N002 2.7
R5 N002 N003 1.8
I1 N001 0 12

.end