* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 8.2
R3 N002 0 390
R1 N003 0 33k
R4 N001 N002 15
R5 N002 N003 180
I1 0 N001 12

.end